US04175136
A solution of 8 g of N-phenethyl-3,4-dimethoxyphenethylamine, 8 g of anhydrous potassium carbonate, 11 ml of propyl iodide and 80 ml of acetone was refluxed for 6 hours and the mixture was filtered. The filtrate was evaporated to dryness and the residue was taken up in 50 ml of water. The solution was extracted with methylene chloride and the organic extracts were washed with water, dried over magnesium sulfate, filtered and evaporated to dryness to obtain 9.37 g of raw N-phenethyl-N-propyl-3,4-dimethoxyphenethylamine in the form of an oil which was used as is for the next step.

reactant | N-phenethyl-3,4-dimethoxyphenethylamine | 8 g | C(CC1=CC=CC=C1)NCCC1=CC(=C(C=C1)OC)OC | C18H23NO2
reactant | potassium carbonate | 8 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyl iodide | 11 ml | C(CC)I | C3H7I
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | N-phenethyl-N-propyl-3,4-dimethoxyphenethylamine | 9.37 g | C(CC1=CC=CC=C1)N(CCC)CCC1=CC(=C(C=C1)OC)OC | C21H29NO2
